US06022969
4-Aminobenzylamine (5.56 g, 45.6 mmol.) was taken up into water (45 mL) and citric acid (9.63 g, 50 mmol.) was added to the solution. Di-tert-butyl dicarbonate (9.94 g, 45.5 mmol.) in dioxane (20 mL) was added dropwise to the above solution and the mixture was allowed to stir at room temperature over 48 hours. The yellow suspension was then filtered and the aqueous solution basified with excess solid sodium carbonate. Extraction of the aqueous solution with ethyl acetate (3×35 mL) followed by washing the combined organic layers with saturated aqueous sodium chloride and drying over anhydrous sodium sulfate afforded the crude benzylamine. Filtration and concentration in vacuo gave a white solid which was taken into methanol (30 mL) and acidified with hydrogen chloride in dioxane (4M, 8.4 mL, 33.6 mmol.). Addition of ethyl ether (100 mL) followed by filtration of the resulting suspension and drying in vacuo provided 4-(tert-butoxycarbonylamino)benzylamine hydrochloride (7.2 g, 61% yield) as a colorless solid.

reactant | 4-Aminobenzylamine | 45.6 mmol, 5.56 g | NC1=CC=C(CN)C=C1 | C7H10N2
reactant | citric acid | 50 mmol, 9.63 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | Di-tert-butyl dicarbonate | 45.5 mmol, 9.94 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 33.6 mmol, 4M, 8.4 mL | O1CCOCC1 | C4H8O2
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 45 mL | O | H2O
product | 4-(tert-butoxycarbonylamino)benzylamine hydrochloride | 7.2 g, 61% yield | Cl.C(C)(C)(C)OC(=O)NC1=CC=C(CN)C=C1 | InChI=1S/C12H18N2O2.ClH/c1-12(2,3)16-11(15)14-10-6-4-9(8-13)5-7-10;/h4-7H,8,13H2,1-3H3,(H,14,15);1H
